US06028195
(a) Phenyl N-(4,5-dimethyl-2-methoxyphenyl)thiocarbamate
To 3,4-dimethyl-2-methoxyaniline(4.50 g, 0.03 mol), methylene chloride(100 ml) was added and then phenyl chlorothionoformate(5.16 g, 0.03 mol) was added slowly. The resulting mixture was stirred for 2 hours, and thereto water(150 ml) was added. The resulting mixture was extracted with methylene chloride and purified by column chromatography to obtain the titled compound.

reactant | 3,4-dimethyl-2-methoxyaniline | 0.03 mol, 4.50 g | CC=1C(=C(N)C=CC1C)OC | C9H13NO
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
reactant | phenyl chlorothionoformate | 0.03 mol, 5.16 g | C1=CC=C(C=C1)OC(=S)Cl | C7H5ClOS
solvent | water | 150 ml | O | H2O
product | Phenyl N-(4,5-dimethyl-2-methoxyphenyl)thiocarbamate | yield: 92% | CC1=CC(=C(C=C1C)NC(OC1=CC=CC=C1)=S)OC | C16H17NO2S
